US07728010B2
Step 3. Synthesis of {5-[2-(1H-Benzoimidazol-2-yl)-pyridin-4-yloxy]-1-methyl-1H-benzoimidazol-2-yl}-(4-fluoro-phenyl)-amine
To a suspension of 4-[2-(4-Fluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid (1 eq) in dry THF, EDC-HCl (1.2 eq), HOAT (1.2 eq), and diisopropylethylamine (3 eq) were added. The suspension was stirred for 10 minutes whereupon phenylenediamine (1.1 eq) was added and the solution is allowed to stir overnight. The mixture was then diluted with ethyl acetate and washed with water. The aqueous layer was washed with ethyl acetate, the organic layers combined, dried over MgSO4, filtered, and concentrated. Acetic acid was added to the residue followed by sodium acetate (1.1 eq). The mixture was heated for 3 hours at 70° C., whereupon the solution is concentrated and the residue purified by reverse phase HPLC to afford the desired product. LCMS m/z 451.5 (MH+), tR=1.92 min.

reactant | 4-[2-(4-Fluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid | 1 eq | FC1=CC=C(C=C1)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)C(=O)O | C20H15FN4O3
reactant | EDC-HCl | 1.2 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOAT | 1.2 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropylethylamine | 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylenediamine | 1.1 eq | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium acetate | 1.1 eq | C(C)(=O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {5-[2-(1H-Benzoimidazol-2-yl)-pyridin-4-yloxy]-1-methyl-1H-benzoimidazol-2-yl}-(4-fluoro-phenyl)-amine | N1C(=NC2=C1C=CC=C2)C2=NC=CC(=C2)OC2=CC1=C(N(C(=N1)NC1=CC=C(C=C1)F)C)C=C2 | C26H19FN6O
